US07524965B2
To a 250 mL round-bottom flask was added biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(3-formylamino-4-hydroxyphenyl)-2-hydroxyethylamino]methyl}-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester L-tartaric acid salt (3.5 g) and methanol (35 mL) and the resulting mixture was stirred for 15 min. A 1:1 mixture of saturated aqueous sodium bicarbonate and water (70 mL) was added over a 5 min. period and stirring was continued for 2 hours. The resulting off-white slurry was filtered and the filter cake was washed with water (20 mL), air dried for 2 hours and then dried in a vacuum overnight to provide biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(3-formylamino-4-hydroxyphenyl)-2-hydroxyethylamino]methyl}-2,5-dimethylphenylcarbamoyl)-ethyl]piperidin-4-yl ester (2.3 g) as a semi-crystalline free base.

reactant | biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(3-formylamino-4-hydroxyphenyl)-2-hydroxyethylamino]methyl}-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester L-tartaric acid salt | 3.5 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O.C(=O)NC=1C=C(C=CC1O)[C@H](CNCC1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)O
reactant | methanol | 35 mL | CO | CH4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 70 mL | O | H2O
product | biphenyl-2-ylcarbamic acid 1-[2-(4-{[(R)-2-(3-formylamino-4-hydroxyphenyl)-2-hydroxyethylamino]methyl}-2,5-dimethylphenylcarbamoyl)-ethyl]piperidin-4-yl ester | 2.3 g | C(=O)NC=1C=C(C=CC1O)[C@H](CNCC1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)O | C39H45N5O6
